US09062070B2
3-Ethenyl-6-fluoro-2-methylbenzonitrile (14.9 g, 92.0 mmol) was added to DCM (400 mL) at 0° C. then mCPBA (47.85 g, 277.5 mmol) was added and the mixture was stirred at RT for 72 h. The reaction mixture was washed with saturated aqueous Na2S2O3, then with 1N NaOH, and brine. The organic layer was separated, dried over Na2SO4, filtered, and evaporated to dryness. The crude product was purified by chromatography through a 330 g Redi-sep column, eluting with 0-100% hexane/DCM solvent system to afford 6-fluoro-2-methyl-3-(oxiran-2-yl)benzonitrile. LC-MS: M+1=178.

reactant | 3-Ethenyl-6-fluoro-2-methylbenzonitrile | 92.0 mmol, 14.9 g | C(=C)C=1C(=C(C#N)C(=CC1)F)C | C10H8FN
reactant | mCPBA | 277.5 mmol, 47.85 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 400 mL | C(Cl)Cl | CH2Cl2
product | 6-fluoro-2-methyl-3-(oxiran-2-yl)benzonitrile | FC1=CC=C(C(=C1C#N)C)C1OC1 | C10H8FNO
